US05543518
2-[2,4-Dihydroxy-5-(1-methyl-1-phenylethyl)phenyl]-4,6-bis-phenyl-s-triazin
To a 500 mL three-necked, round-bottomed flask equipped with a magnetic stirrer, dropping funnel, condenser, thermometer, and a nitrogen atmosphere are charged 5.00 g (14.7 mmol) of 2-(2,4-dihydroxyphenyl)-4,6-bis-phenyl-s-triazine and 300 mg of aluminum isopropoxide. The mixture is heated to 160° C. and 17.3 g of α-methylstyrene are added all at once. After stirring at this temperature for 26 hours the mixture is allowed to cool and a portion of heptane is added. Vacuum filtration affords 4.45 g of the title compound as a yellow solid.

reactant | 2-(2,4-dihydroxyphenyl)-4,6-bis-phenyl-s-triazine | 14.7 mmol, 5.00 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15N3O2
reactant | aluminum isopropoxide | 300 mg | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | α-methylstyrene | 17.3 g | CC(=C)C1=CC=CC=C1 | C9H10
solvent | heptane | CCCCCCC | C7H16
product | 2-[2,4-Dihydroxy-5-(1-methyl-1-phenylethyl)phenyl]-4,6-bis-phenyl-s-triazin | 4.45 g | OC1=C(C=C(C(=C1)O)C(C)(C1=CC=CC=C1)C)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H25N3O2
